US05009950
DETDA:
A mixture of 65 parts by weight of 1-methyl-3,5-diethyl-2,4-diaminobenzene and 35 parts by weight of 1-methyl-3,5-diethyl-2,6-diaminobenzene.

reactant | 1-methyl-3,5-diethyl-2,4-diaminobenzene | CC1=C(C(=C(C(=C1)CC)N)CC)N | C11H18N2
reactant | 1-methyl-3,5-diethyl-2,6-diaminobenzene | CC1=C(C(=CC(=C1N)CC)CC)N | C11H18N2
product | DETDA | CCC1=CC(=C(C(=C1N)C)N)CC.CCC1=C(C(=C(C(=C1)C)N)CC)N | 2C11H18N2
